US07786110B2
To a solution of 5-bromo-4-isopropyl-thiazole (0.131 g. 1 mmol), Pd(PPh3)4(56 mg, 0.05 mmol) and potassium carbonate (0.196 g, 1 mmol) in DME/H2O (5 ml/2 ml) was added 3-(5-methyl-pyridin-2-yl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester (0.250 g, 1 mmol) under N2 atmosphere. The reaction mixture was heated to 80° C. for three hours, then cooled and stirred at room temperature for 18 hours. The reaction mixture was poured into EtOAc, and the organic phase was separated, washed with water and brine, dried (MgSO4), filtered and concentrated under reduced pressure. The reaction mixture was cooled and solvent was evaporated under reduced pressure. The residue was purified by flash-chromatography (15% EtOAc in hexanes) to give 85 mg of 3-(5-Isopropyl-thiazol-4-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester.

reactant | 5-bromo-4-isopropyl-thiazole | 1 mmol, 0.131 g | BrC1=C(N=CS1)C(C)C | C6H8BrNS
reactant | potassium carbonate | 1 mmol, 0.196 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(5-methyl-pyridin-2-yl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 1 mmol, 0.250 g | COC(C1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=NC=C(C=C1)C)=O | C20H24BNO4
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DME H2O | 5 ml | COCCOC.O
catalyst | Pd(PPh3)4 | 0.05 mmol, 56 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-Isopropyl-thiazol-4-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid methyl ester | 85 mg | COC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)C=1N=CSC1C(C)C)=O | C20H20N2O2S
